*****************************************************
.MODEL 2SC2714 NPN(
+ IS=10.000E-15 BF=58.092 VAF=14.592 IKF=19.980 XTB=1.5ISE=18.075E-12 NE=1.9980 VAR=100 IKR=10.000E-3 CJE=2.0000E-12 CJC=1.7337E-12
+ MJC=.17086 XTF=10 VTF=10 ITF=1 TR=10.000E-9)

*************************************
.MODEL BFR93A NPN(IS=1.32873E-015 BF=1.02000E+002 NF=1.00025E+000 VAF=5.19033E+001 IKF=8.15511E+000 ISE=1.39029E-014 NE=1.51292E+000 BR=1.76953E+001 NR=9.94038E-001 +VAR=3.28032E+000 IKR=1.00000E+001
+ISC=1.04297E-015 NC=1.18993E+000 RB=1.00000E+001 IRB=1.00000E-006 RBM=1.00000E+001 RE=7.63636E-001 RC=9.00000E+000 EG=1.11000E+000 +XTI=3.00000E+000 CJE=2.03216E-012 VJE=6.00000E-001
+MJE=2.90076E-001 TF=6.55790E-012 XTF=3.89752E+001 VTF=1.09308E+001 ITF=5.21078E-001 CJC=1.00353E-012 VJC=3.40808E-00 +MJC=1.94223E-001 Vceo=12 Icrating=35m mfg=NXP)
****************************
.subckt OPA189 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=450e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e12 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e12 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
XV_OS N035 N041 VOS_DRIFT_OPA189
R1 N038 N036 R_NOISELESS 1e-3
R2 N047 ESDn R_NOISELESS 1e-3
R3 N077 0 R_NOISELESS 1e12
C1 N077 0 1
R4 VCC_B N076 R_NOISELESS 1
C2 N076 0 1e-11
C3 N078 0 1e-11
R5 N078 VEE_B R_NOISELESS 1
G1 N038 N039 N007 N006 1e-3
R6 MID N045 R_NOISELESS 1e12
VCM_MIN N046 VEE_B -0.1
R7 N046 MID R_NOISELESS 1e12
VCM_MAX N045 VCC_B -2.5
XVCM_CLAMP N039 MID N042 MID N045 N046 VCCS_EXT_LIM_OPA189
R8 N042 MID R_NOISELESS 1
C4 N043 MID 1e-12
R9 N042 N043 R_NOISELESS 1
V4 N070 OUT 0
R10 MID N048 R_NOISELESS 1e12
R11 MID N049 R_NOISELESS 1e12
XIQp VIMON MID VCC MID VCCS_LIM_IQ_OPA189
XIQn MID VIMON MID VEE VCCS_LIM_IQ_OPA189
R12 VCC_B N012 R_NOISELESS 1e3
R13 N025 VEE_B R_NOISELESS 1e3
XCLAWp VIMON MID N012 VCC_B VCCS_LIM_CLAWp_OPA189
XCLAWn MID VIMON VEE_B N025 VCCS_LIM_CLAWn_OPA189
R14 VEE_CLP MID R_NOISELESS 1e3
R15 MID VCC_CLP R_NOISELESS 1e3
R16 N013 N012 R_NOISELESS 1
R17 N026 N025 R_NOISELESS 1
C5 MID N013 1e-11
C6 N026 MID 1e-11
R18 VOUT_S N049 R_NOISELESS 100
C7 VOUT_S MID 1e-12
G2 MID VCC_CLP N013 MID 1e-3
G3 MID VEE_CLP N026 MID 1e-3
XCL_AMP N010 N037 VIMON MID N016 N023 CLAMP_AMP_LO_OPA189
V_ISCp N010 MID 69
V_ISCn N037 MID -70
XOL_SENSE_OPA189 MID N082 N081 N084 OL_SENSE_OPA189
R19 N037 MID R_NOISELESS 1e12
R20 N023 MID R_NOISELESS 1
C8 N024 MID 1e-11
R21 MID N016 R_NOISELESS 1
R22 MID N010 R_NOISELESS 1e12
C9 MID N017 1e-11
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N014 N021 CLAMP_AMP_LO_OPA189
R23 VEE_CLP MID R_NOISELESS 1e12
R24 N021 MID R_NOISELESS 1
C10 N022 MID 1e-11
R25 MID N014 R_NOISELESS 1
R26 MID VCC_CLP R_NOISELESS 1e12
C11 MID N015 1e-11
XCL_SRC N017 N024 CL_CLAMP MID VCCS_LIM_4_OPA189
XCLAW_SRC N015 N022 CLAW_CLAMP MID VCCS_LIM_3_OPA189
R27 N014 N015 R_NOISELESS 1
R28 N022 N021 R_NOISELESS 1
R29 N016 N017 R_NOISELESS 1
R30 N024 N023 R_NOISELESS 1
R31 N082 MID R_NOISELESS 1
R32 N082 SW_OL R_NOISELESS 100
C12 SW_OL MID 1e-12
R33 VIMON N048 R_NOISELESS 100
C13 VIMON MID 1e-9
C_DIFF ESDp ESDn 2e-12
C_CMn ESDn MID 4e-12
C_CMp MID ESDp 4e-12
I_Q VCC VEE 1.3e-3
I_B N041 MID 70e-12
I_OS ESDn MID -70e-12
R34 IN+ ESDp R_NOISELESS 10e-3
R35 IN- ESDn R_NOISELESS 10e-3
R36 N033 MID R_NOISELESS 1
R37 N040 MID R_NOISELESS 1e12
R38 MID N019 R_NOISELESS 1
R39 MID N011 R_NOISELESS 1e12
XGR_AMP N011 N040 N018 MID N019 N033 CLAMP_AMP_HI_OPA189
XGR_SRC N020 N034 CLAMP MID VCCS_LIM_GR_OPA189
C17 MID N020 1e-11
C18 N034 MID 1e-11
V_GRn N040 MID -75
V_GRp N011 MID 75
R40 N019 N020 R_NOISELESS 1
R41 N034 N033 R_NOISELESS 1
R42 VSENSE N018 R_NOISELESS 1
C19 MID N018 1e-12
R43 MID VSENSE R_NOISELESS 1e3
G5 N035 N036 N009 MID 1e-3
G8 MID CLAW_CLAMP N056 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3
G9 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R46 MID CL_CLAMP R_NOISELESS 1e3
R47 N086 VCLP R_NOISELESS 100
C24 MID VCLP 1e-12
E4 N086 MID CL_CLAMP MID 1
E5 N049 MID OUT MID 1
H1 N048 MID V4 1e3
S1 N051 N050 SW_OL MID OL_SW
R52 MID ESDp R_NOISELESS 1e12
R53 ESDn MID R_NOISELESS 1e12
R58 N036 N035 R_NOISELESS 1e3
R59 N076 N077 R_NOISELESS 1e6
R60 N077 N078 R_NOISELESS 1e6
R67 N039 N038 R_NOISELESS 1e3
G15 MID VSENSE CLAMP MID 1e-3
V_ORp N032 VCLP 13
V_ORn N027 VCLP -13
V11 N029 N028 0
V12 N030 N031 0
H2 N080 MID V11 -1
H3 N083 MID V12 1
S2 VCC ESDn ESDn VCC ESD_SW
S3 VCC ESDp ESDp VCC ESD_SW
S4 ESDn VEE VEE ESDn ESD_SW
S5 ESDp VEE VEE ESDp ESD_SW
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E1 MID 0 N077 0 1
G16 0 VCC_B VCC 0 1
G17 0 VEE_B VEE 0 1
R88 VCC_B 0 R_NOISELESS 1
R89 VEE_B 0 R_NOISELESS 1
S8 N030 CLAMP CLAMP N030 OR_SW
S9 CLAMP N029 N029 CLAMP OR_SW
Xe_n ESDp N041 VNSE_OPA189
Xi_nn ESDn MID FEMT_OPA189
Xi_np N041 MID FEMT_OPA189
XVCCS_LIMIT_1 N043 N047 MID N044 VCCS_LIM_1_OPA189
XVCCS_LIMIT_2 N044 MID MID CLAMP VCCS_LIM_2_OPA189
R44 N044 MID R_NOISELESS 1e6
R68 CLAMP MID R_NOISELESS 1e6
C20 CLAMP MID 1.027e-6
G10 MID N028 N027 MID 1
R73 N028 MID R_NOISELESS 1
G11 MID N031 N032 MID 1
R74 N031 MID R_NOISELESS 1
R72 N081 N080 R_NOISELESS 100
R75 N083 N084 R_NOISELESS 100
C27 N081 MID 1e-12
C28 N084 MID 1e-12
XVCCS_LIM_ZO_OPA189 N068 MID MID N069 VCCS_LIM_ZO_OPA189
Rx N070 N069 R_NOISELESS 5e4
Rdummy N070 MID R_NOISELESS 5e3
G4 MID N050 N075 N070 88.8889
Rdc1 N050 MID R_NOISELESS 1
R61 N050 N051 R_NOISELESS 1e4
R62 N051 MID R_NOISELESS 27.3473
G6 MID N057 N051 MID 366.667
C21 N051 N050 5.305e-5
R63 N057 MID R_NOISELESS 1
R64 N057 N058 R_NOISELESS 4e4
R65 N058 N071 R_NOISELESS 1e4
C23 MID N071 1.592e-9
Gb1 MID N059 N058 MID 1
R66 N069 MID R_NOISELESS 1
R70 N059 N060 R_NOISELESS 515e3
R71 N060 N072 R_NOISELESS 1e4
C26 MID N072 7.579e-11
Gb2 MID N061 N060 MID 1
R76 N059 MID R_NOISELESS 1
Rdc2 N061 MID R_NOISELESS 1
R77 N061 N062 R_NOISELESS 1e4
R78 N062 MID R_NOISELESS 1695.91
G18 MID N063 N062 MID 6.89655
C29 N062 N061 1.098e-11
R79 N063 N064 R_NOISELESS 4e4
R80 N064 N073 R_NOISELESS 1e4
C30 MID N073 1.592e-13
Gb3 MID N065 N064 MID 1
R81 N063 MID R_NOISELESS 1
Rdc3 N067 MID R_NOISELESS 1
R82 N067 N068 R_NOISELESS 1e4
R83 N068 MID R_NOISELESS 50.2513
C31 N068 N067 3.183e-14
R84 N065 N066 R_NOISELESS 8518.52
R85 N066 N074 R_NOISELESS 1e4
C32 MID N074 1.592e-13
Gb4 MID N067 N066 MID 1
R86 N065 MID R_NOISELESS 1
R50 N054 MID R_NOISELESS 1e6
C25 N054 MID 5.305e-15
G7 MID N054 VSENSE MID 1e-6
R69 N055 MID R_NOISELESS 1e6
C33 N055 MID 5.305e-15
G19 MID N055 N054 MID 1e-6
R87 N079 MID R_NOISELESS 1
R90 N079 N075 R_NOISELESS 12222.2
R91 N075 N085 R_NOISELESS 1e4
C34 MID N085 7.95775e-11
G20 MID N079 CL_CLAMP MID 1
Rdc4 N052 MID R_NOISELESS 1
R92 N052 N053 R_NOISELESS 1e4
R93 N053 MID R_NOISELESS 14285.7
G21 MID N056 N053 MID 1.7
C35 N053 N052 1.59155e-12
G22 MID N052 N055 MID 1
Rdc5 N056 MID R_NOISELESS 1
C22 N002 N001 2.067e-9
R94 N002 MID R_NOISELESS 0.77
R95 N002 N001 R_NOISELESS 1e4
G23 MID N001 ESDp MID 6.509e-3
Rsrc3 N001 MID R_NOISELESS 1
Rdc6 N003 MID R_NOISELESS 1
R96 N003 N004 R_NOISELESS 1e4
R97 N004 MID R_NOISELESS 141.988
G24 MID N009 N004 MID 71.4286
C36 N004 N003 2.067e-9
G25 MID N003 N002 MID 1
R98 N009 MID R_NOISELESS 1
C14 N007 N008 1.592e-8
R48 N007 MID R_NOISELESS 5
R49 N007 N008 R_NOISELESS 1e9
G12 MID N008 VCC_B MID 796.214e-3
Rsrc1 N008 MID R_NOISELESS 1
C15 N006 N005 7.968e-10
R54 N006 MID R_NOISELESS 40
R55 N006 N005 R_NOISELESS 1e9
G13 MID N005 VEE_B MID 0.790569
Rsrc2 N005 MID R_NOISELESS 1
.ends OPA189
*
.SUBCKT VOS_DRIFT_OPA189 VOS+ VOS-
.PARAM DC = -240.866e-9
.PARAM POL = 1
.PARAM DRIFT = .005e-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
*
.subckt CLAMP_AMP_HI_OPA189 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_HI_OPA189
*
.subckt OL_SENSE_OPA189 1   2  3  4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends OL_SENSE_OPA189
*
.subckt FEMT_OPA189 1 2
.param NVRF=165
.param RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1e-6
.ends
*
.subckt VCCS_EXT_LIM_OPA189 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends VCCS_EXT_LIM_OPA189
*
.subckt VCCS_LIM_3_OPA189 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.15
.param Ineg = -0.15
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_OPA189
*
.subckt VCCS_LIM_4_OPA189 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.3
.param Ineg = -0.3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_4_OPA189
*
.subckt VCCS_LIM_CLAWp_OPA189 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.75e-5)
+(26, 1.08e-3)
+(50, 2.41e-3)
+(60, 3.22e-3)
+(65, 3.84e-3)
+(66, 4.01e-3)
+(67, 4.25e-3)
+(68, 4.51e-3)
+(69, 5.14e-3)
.ends VCCS_LIM_CLAWp_OPA189
*
.subckt VCCS_LIM_CLAWn_OPA189 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.73e-5)
+(50, 2.26e-3)
+(70, 3.4e-3)
+(70.5, 1.8e-2)
.ends VCCS_LIM_CLAWn_OPA189
*
.subckt VCCS_LIM_IQ_OPA189 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends VCCS_LIM_IQ_OPA189
*
.SUBCKT VNSE_OPA189 1 2
.param NVR=5.2
.param RNV={1.184*PWR(NVR,2)}
R4 5 0 {RNV}
R5 5 0 {RNV}
E3 1 2 5 0 10
.ends
*
.subckt CLAMP_AMP_LO_OPA189 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_LO_OPA189
*
.subckt VCCS_LIM_GR_OPA189 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 98
.param Ineg = -98
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_GR_OPA189
*
.subckt VCCS_LIM_1_OPA189 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_1_OPA189
*
.subckt VCCS_LIM_2_OPA189 VC+ VC- IOUT+ IOUT-
.param Gain = 1.17812
.param Ipos = 49
.param Ineg = -49
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_OPA189
*
.subckt VCCS_LIM_ZO_OPA189 VC+ VC- IOUT+ IOUT-
.param Gain = 200
.param Ipos = 7e3
.param Ineg = -7e3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_ZO_OPA189
***************************************************************************************
* OPAx828 - Rev. A
* Created by Ian Williams; December 08, 2018
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2018 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt OPAx828 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=450e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=10e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
R1 N038 N036 R_NOISELESS 1e-3
R2 N047 ESDn R_NOISELESS 1e-3
R3 N067 0 R_NOISELESS 1e9
C1 N067 0 1
R4 VCC_B N066 R_NOISELESS 1e-3
C2 N066 0 1e-15
C3 N068 0 1e-15
R5 N068 VEE_B R_NOISELESS 1e-3
G1 N038 N039 N005 N011 1e-3
R6 MID N045 R_NOISELESS 1e9
VCM_MIN N046 VEE_B +2.5
R7 N046 MID R_NOISELESS 1e9
VCM_MAX N045 VCC_B -3.5
XVCM_CLAMP N039 MID N042 MID N045 N046 VCCS_EXT_LIM_OPAx828
R8 N042 MID R_NOISELESS 1
C4 N043 MID 1e-15
R9 N042 N043 R_NOISELESS 1e-3
V4 N062 OUT 0
R10 MID N048 R_NOISELESS 1e9
R11 MID N049 R_NOISELESS 1e9
XIQp VIMON MID VCC MID VCCS_LIM_IQ_OPAx828
XIQn MID VIMON MID VEE VCCS_LIM_IQ_OPAx828
R12 VCC_B N012 R_NOISELESS 1e3
R13 N025 VEE_B R_NOISELESS 1e3
XCLAWp VIMON MID N012 VCC_B VCCS_LIM_CLAWp_OPAx828
XCLAWn MID VIMON VEE_B N025 VCCS_LIM_CLAWn_OPAx828
R14 VEE_CLP MID R_NOISELESS 1e3
R15 MID VCC_CLP R_NOISELESS 1e3
R16 N013 N012 R_NOISELESS 1e-3
R17 N026 N025 R_NOISELESS 1e-3
C5 MID N013 1e-15
C6 N026 MID 1e-15
R18 VOUT_S N049 R_NOISELESS 100
C7 VOUT_S MID 1e-9
G2 MID VCC_CLP N013 MID 1e-3
G3 MID VEE_CLP N026 MID 1e-3
XCL_AMP N008 N037 VIMON MID N016 N023 CLAMP_AMP_LO_OPAx828
V_ISCp N008 MID 48
V_ISCn N037 MID -48
XOL_SENSE_OPAx828 MID N071 N070 N073 OL_SENSE_OPAx828
R19 N037 MID R_NOISELESS 1e9
R20 N023 MID R_NOISELESS 1
C8 N024 MID 1e-15
R21 MID N016 R_NOISELESS 1
R22 MID N008 R_NOISELESS 1e9
C9 MID N017 1e-15
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N014 N021 CLAMP_AMP_LO_OPAx828
R23 VEE_CLP MID R_NOISELESS 1e9
R24 N021 MID R_NOISELESS 1
C10 N022 MID 1e-15
R25 MID N014 R_NOISELESS 1
R26 MID VCC_CLP R_NOISELESS 1e9
C11 MID N015 1e-15
XCL_SRC N017 N024 CL_CLAMP MID VCCS_LIM_4_OPAx828
XCLAW_SRC N015 N022 CLAW_CLAMP MID VCCS_LIM_3_OPAx828
R27 N014 N015 R_NOISELESS 1e-3
R28 N022 N021 R_NOISELESS 1e-3
R29 N016 N017 R_NOISELESS 1e-3
R30 N024 N023 R_NOISELESS 1e-3
R31 N071 MID R_NOISELESS 1
R32 N071 SW_OL R_NOISELESS 100
C12 SW_OL MID 1e-12
R33 VIMON N048 R_NOISELESS 100
C13 VIMON MID 1e-9
C_DIFF ESDp ESDn 6e-12
C_CMn ESDn MID 9e-12
C_CMp MID ESDp 9e-12
I_Q VCC VEE 5.5e-3
I_B N041 MID 1e-12
I_OS ESDn MID 1e-15
R34 IN+ ESDp R_NOISELESS 10e-3
R35 IN- ESDn R_NOISELESS 10e-3
R36 N033 MID R_NOISELESS 1
R37 N040 MID R_NOISELESS 1e9
R38 MID N019 R_NOISELESS 1
R39 MID N009 R_NOISELESS 1e9
XGR_AMP N009 N040 N018 MID N019 N033 CLAMP_AMP_HI_OPAx828
XGR_SRC N020 N034 CLAMP MID VCCS_LIM_GR_OPAx828
C17 MID N020 1e-15
C18 N034 MID 1e-15
V_GRn N040 MID -43
V_GRp N009 MID 43
R40 N019 N020 R_NOISELESS 1e-3
R41 N034 N033 R_NOISELESS 1e-3
R42 VSENSE N018 R_NOISELESS 1e-3
C19 MID N018 1e-15
R43 MID VSENSE R_NOISELESS 1e3
G5 N035 N036 N007 MID 1e-3
G8 MID CLAW_CLAMP N052 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3
G9 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R46 MID CL_CLAMP R_NOISELESS 1e3
R47 N063 VCLP R_NOISELESS 100
C24 MID VCLP 1e-12
E4 N063 MID CL_CLAMP MID 1
E5 N049 MID OUT MID 1
H1 N048 MID V4 1e3
S1 N054 N053 SW_OL MID OL_SW
R52 MID ESDp R_NOISELESS 1e12
R53 ESDn MID R_NOISELESS 1e12
R58 N036 N035 R_NOISELESS 1e3
R59 N066 N067 R_NOISELESS 1e6
R60 N067 N068 R_NOISELESS 1e6
R67 N039 N038 R_NOISELESS 1e3
G15 MID VSENSE CLAMP MID 1e-3
V_ORp N032 VCLP 7.5
V_ORn N027 VCLP -7.5
V11 N029 N028 0
V12 N030 N031 0
H2 N069 MID V11 -1
H3 N072 MID V12 1
S2 VCC ESDn ESDn VCC ESD_SW
S3 VCC ESDp ESDp VCC ESD_SW
S4 ESDn VEE VEE ESDn ESD_SW
S5 ESDp VEE VEE ESDp ESD_SW
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E1 MID 0 N067 0 1
G16 0 VCC_B VCC 0 1
G17 0 VEE_B VEE 0 1
R88 VCC_B 0 R_NOISELESS 1
R89 VEE_B 0 R_NOISELESS 1
S8 N030 CLAMP CLAMP N030 OR_SW
S9 CLAMP N029 N029 CLAMP OR_SW
Xe_n ESDp N041 VNSE_OPAx828
XVCCS_LIMIT_1 N043 N047 MID N044 VCCS_LIM_1_OPAx828
XVCCS_LIMIT_2 N044 MID MID CLAMP VCCS_LIM_2_OPAx828
R44 N044 MID R_NOISELESS 1e6
R68 CLAMP MID R_NOISELESS 1e6
C20 CLAMP MID 3.95e-8
G7 MID N050 VSENSE MID 1e-6
R69 N050 MID R_NOISELESS 1e6
C25 N050 MID 4.3e-16
G10 MID N028 N027 MID 1
R73 N028 MID R_NOISELESS 1
G11 MID N031 N032 MID 1
R74 N031 MID R_NOISELESS 1
R72 N070 N069 R_NOISELESS 100
R75 N072 N073 R_NOISELESS 100
C27 N070 MID 1e-12
C28 N073 MID 1e-12
XVCCS_LIM_ZO_OPAx828 N060 MID MID N061 VCCS_LIM_ZO_OPAx828
G20 MID N051 N050 MID 1e-6
R50 N051 MID R_NOISELESS 1e6
C22 N051 MID 3.98e-16
XVOS_DRIFT_OPAx828 N035 N041 VOS_DRIFT_OPAx828
Rx N062 N061 R_NOISELESS 3285
Rdummy N062 MID R_NOISELESS 328.5
G4 MID N053 CL_CLAMP N062 88.5
Rdc1 N053 MID R_NOISELESS 1
R65 N053 N054 R_NOISELESS 1e4
R66 N054 MID R_NOISELESS 5220.21
G6 MID N055 N054 MID 2.915
C26 N054 N053 3.95e-6
R70 N055 MID R_NOISELESS 1
R71 N055 N056 R_NOISELESS 214
R82 N056 N064 R_NOISELESS 1e4
C32 MID N064 1.11e-10
Gb3 MID N057 N056 MID 1
R86 N059 MID R_NOISELESS 1
R87 N059 N060 R_NOISELESS 1e4
R90 N060 MID R_NOISELESS 204.1
C33 N060 N059 7.96e-15
R91 N061 MID R_NOISELESS 1
R92 N057 MID R_NOISELESS 1
R93 N057 N058 R_NOISELESS 92564
R94 N058 N065 R_NOISELESS 1e4
C34 MID N065 7.96e-15
Gb4 MID N059 N058 MID 1
G22 MID N052 N051 MID 1e-6
R61 N052 MID R_NOISELESS 1e6
C21 N052 MID 3.98e-16
C29 N007 N006 3.83e-9
R62 N007 MID R_NOISELESS 0.416
R63 N007 N006 R_NOISELESS 1e4
G18 MID N006 ESDp MID 4.27e-2
Rsrc3 N006 MID R_NOISELESS 1
C14 N003 N004 7.96e-9
R48 N003 MID R_NOISELESS 20.04
R49 N003 N004 R_NOISELESS 1e4
G12 MID N004 VCC_B MID 7.06e-4
Rsrc1 N004 MID R_NOISELESS 1
Rdc2 N002 MID R_NOISELESS 1
R76 N002 N001 R_NOISELESS 1e4
R77 N001 MID R_NOISELESS 20.04
G19 MID N005 N001 MID 500
C30 N001 N002 7.96e-11
R78 N005 MID R_NOISELESS 1
G21 MID N002 N003 MID 1
C15 N011 N010 2.65e-9
R54 N011 MID R_NOISELESS 3
R55 N011 N010 R_NOISELESS 1e6
G13 MID N010 VEE_B MID 4.71e-1
Rsrc2 N010 MID R_NOISELESS 1
.ends
*
.subckt CLAMP_AMP_HI_OPAx828 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*
.subckt OL_SENSE_OPAx828 1 2 3 4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends
*
.subckt VCCS_EXT_LIM_OPAx828 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends
*
.subckt VCCS_LIM_3_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 8.5e-2
.param Ineg = -8.5e-2
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_4_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.171
.param Ineg = -0.171
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_CLAWp_OPAx828 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 9.08e-4)
+(20, 1.15e-3)
+(45, 1.47e-3)
+(46, 1.49e-3)
+(47, 1.65e-3)
+(48, 2.86e-3)
.ends
*
.subckt VCCS_LIM_CLAWn_OPAx828 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 8.7e-4)
+(45, 1.42e-3)
+(46, 1.44e-3)
+(47, 1.52e-3)
+(48, 2.92e-3)
.ends
*
.subckt VCCS_LIM_IQ_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends
*
.subckt VNSE_OPAx828 1 2
.param FLW = 0.11
.param GLF=0.032
.param RNV=16.21
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends
*
.subckt CLAMP_AMP_LO_OPAx828 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*
.subckt VCCS_LIM_GR_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 12.36
.param Ineg = -12.36
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_1_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_2_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 0.114
.param Ipos = 6.18
.param Ineg = -6.18
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_ZO_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 50
.param Ipos = 315
.param Ineg = -315
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VOS_DRIFT_OPAx828 VOS+ VOS-
.param DC = -2.737e-5
.param POL = 1
.param DRIFT = 5e-7
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ends
******************************************************
******************************************************
* AD8065 Spice Model
* Description: Amplifier
* Generic Desc: Single 135MHz low noise FET Input Amp
* Developed by: VC
* Revision History: 08/10/2012 - Updated to new header style
* 1.0
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*       Distortion is not characterized
*
* Parameters modeled include:
*       Open loop gain and phase vs. frequency
*       Output impedance vs. frequency
*       Output clamping voltage and current
*       FET Input common mode range
*       Slew rate
*       Output currents are reflected to V supplies
*       Vos is static and will not vary
*
* END Notes
*
* Node assignments
*              non-inverting input
*              | inverting input
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  |
.SUBCKT AD8065 1 2 99 50 30
*
* FET INPUT STAGE
Vos 9 2 1.5m
Cd 1 2 4.5p
Ccm1 1 0 2.1p
Ccm2 2 0 2.1p
J1 10 1 5 NMOD
J2 11 9 6 NMOD
R3 99 5 1132
R4 99 6 1132
R5 10 4 390
R6 11 4 390
I11 4 50 0.87e-3
*
* COMMON-MODE GAIN NETW0RK
*
Ecm 80 15 POLY(2) 2 15 1 15 0 .5 .5
*
*ZERO AT 40 kHz
Gcm1 15 81 80 15 4e-6
Lcm1 81 82 2e-3
Rcm1 82 15 1k
*
* GAIN STAGE & POLE AT 17 kHz
Ecc 98 0 99 0 1
Ess 52 0 50 0 1
Eref 15 0 POLY(2) 99 0 50 0 0 .5 .5
G1 13 15 5 6 0.6
R7 13 15 100k
*
*Note changed R7 from wrong AD value of 3.125k to 100k give correct open loop gain and first pole to match datasheet
*
C3 13 15 3n
V1 98 14 1
V2 16 52 1
D1 13 14 DX
D2 16 13 DX
*
* POLE AT 334 MHz
G2 15 43 13 15 3.777m
R10 15 43 265
C5 15 43 1.8p
*
* POLE AT 665 MHz
G3 15 53 43 15 7.54m
R11 15 53 133
C6 15 53 1.8p
*
*POLE AT 665 MHz
G4 15 63 53 15 7.54m
R12 15 63 133
C7 15 63 1.8p
*
* BUFFER STAGE
Gbuf 15 32 63 15 1e-3
Rbuf 32 15 1000
*
* OUTPUT STAGE
Vo1 99 90 0
Vo2 51 50 0
R18 25 90 .02
R19 25 51 .02
Vcd 25 30 0
G6 25 90 99 32 50
G7 51 25 32 50 50
V4 26 25 -0.82
V5 25 27 -0.82
D5 32 26 Dx
D6 27 32 DX
Fo1 15 70 vcd 1
D7 70 71 DX
D8 72 70 DX
Vi1 71 15 0
Vi2 15 72 0
Erefq 96 0 30 0 1
Iq 99 50 5.7m
Fq1 96 99 POLY(2) Vo1 Vi1 0 1 -1
Fq2 50 96 POLY(2) Vo2 Vi2 0 1 -1
*
.MODEL NMOD NJF VTO=0.13 BETA=100 IS=2.4e-13
.MODEL DX D(IS=1e-15)
.ENDS AD8065
*****************************************************
